US03948913
A mixture of 2.0 grams of 4-amino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine dissolved in 100 milliliters of glacial acetic acid and 10 milliliters of 30 % w/v hydrogen peroxide solution (100 volumes) was allowed to stand at room temperature for 3 days. The reaction mixture was evaporated to dryness and the solid product was collected, washed with acetic acid and dried. Recrystallisation from water gave 4-amino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidin-5-oxide, having melting point 285°C.

reactant | 4-amino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | 2.0 grams | NC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H8N6O3
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 100 milliliters | C(C)(=O)O | C2H4O2
product | 4-amino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidin-5-oxide | NC1=C2C(=NC=[N+]1[O-])N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H8N6O4
